US04181800
2-[3-(N-Benzyloxycarbonyl-2-phenylglycinamido)-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid (0.19 g.) was dissolved in methanol (10 ml.), and to the solution, there was added 10% palladium on carbon (0.15 g.) as a catalyst. The mixture was subjected to catalytic reduction in a stream of hydrogen gas at ordinary temperature and ordinary pressure. A calculated volume of hydrogen gas was absorbed into the mixture in the course of 6.5 hours. The catalyst was filtered off from the reaction mixture and the filtrate was evaporated to dryness under reduced pressure to give an oily residue, which was pulverized with ethyl acetate. The powder (0.09 g.) obtained was treated with a mixture of acetonitrile and water (volume ratio, 20:1) to give 2-[3-(2-phenylglycinamido)-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid (0.02 g.).

reactant | 2-[3-(N-Benzyloxycarbonyl-2-phenylglycinamido)-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid | 0.19 g | C(C1=CC=CC=C1)OC(=O)N(C(C(N)C1=CC=CC=C1)=O)C1C(N(C1)C(C(=O)O)C=1SC=CC1)=O | C25H23N3O6S
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | water | O | H2O
product | 2-[3-(2-phenylglycinamido)-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid | 0.02 g | C1(=CC=CC=C1)C(N)C(=O)NC1C(N(C1)C(C(=O)O)C=1SC=CC1)=O | C17H17N3O4S
